US08975400B2
6-(3-chloro-5-(trifluoromethyl)phenoxy)nicotinaldehyde
The title compound was prepared by a procedure similar to that described for D4 starting from 6-fluoronicotinaldehyde and 3-chloro-5-(trifluoromethyl) phenol.

reactant | 6-fluoronicotinaldehyde | FC1=NC=C(C=O)C=C1 | C6H4FNO
reactant | 3-chloro-5-(trifluoromethyl) phenol | ClC=1C=C(C=C(C1)C(F)(F)F)O | C7H4ClF3O
product | 6-(3-chloro-5-(trifluoromethyl)phenoxy)nicotinaldehyde | ClC=1C=C(OC2=NC=C(C=O)C=C2)C=C(C1)C(F)(F)F | C13H7ClF3NO2
